US04476307
N-(3-Fluorophenyl)-alpha-chloroacetanilide
N-(3-Fluorophenyl)aniline (7.02 g, 0.0375 mole) and chloroacetyl chloride (3.3 ml, 0.0412 mole) were refluxed in benzene (50 ml) for 3 hours, then evaporated in vacuo to solids and the solids triturated with pentane and ether to yield purified title product, 8.69 g, m.p. 115°-117°.

reactant | N-(3-Fluorophenyl)aniline | 0.0375 mole, 7.02 g | FC=1C=C(C=CC1)NC1=CC=CC=C1 | C12H10FN
reactant | chloroacetyl chloride | 0.0412 mole, 3.3 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-(3-Fluorophenyl)-alpha-chloroacetanilide | FC=1C=C(C=CC1)N(C1=CC=CC=C1)C(CCl)=O | C14H11ClFNO
